US07335799B2
Under N2-atmosphere, methyl tert-butyl ether (MTBE, 80 mL) was added to lithium aluminum hydride (0.67 g, 17.60 mmol) and the suspension was stirred under cooling with an ice-water bath (0° C.). A solution of 2,2,16,16-tetramethyl-9-oxoheptadecanedioic acid diethyl ester (3.0 g, 7.04 mmol) in MTBE (20 mL) was added dropwise, followed by additional MTBE (40 mL). After 2 h at 0° C., the reaction mixture was carefully quenched by addition of ethyl acetate (8 mL, 80 mmol) and allowed to warm to room temperature overnight. The mixture was cooled with an ice-water bath and carefully hydrolyzed by addition of crushed ice (15 g) and water (15 mL). The pH was adjusted to 1 by addition of 2 N sulfuric acid (28 mL) and the solution was stirred at room temperature for 15 min. The layers were separated and the aqueous layer was extracted with MTBE (40 mL). The combined organic layers were washed with deionized water (50 mL), saturated NaHCO3 solution (40 mL), brine (40 mL), dried over MgSO4, concentrated in vacuo and dried in high vacuo to yield a crude product (2.65 g). The crude product was purified by recrystallization from hot CH2Cl2 (20 mL), which was cooled to room temperature and then kept at −5° C. The crystals were filtered, washed with ice-cold CH2Cl2 (20 mL) and dried in high vacuo. This process was repeated to furnish 2,2,16,16-tetramethylheptadecane-1,9,17-triol (1.59 g, 65%) as a white solid. Mp 75-77° C. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 3.57 (m, 1H), 3.30 (s, 4H), 1.72 (br, 2H), 1.50-1.16 (m, 25H), 0.85 (s, 12H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm): 72.09, 38.79, 37.61, 35.21, 30.70, 29.85, 25.78, 24.06, 23.92. HRMS (LSIMS, gly): Calcd for C21H45O3(MH+): 345.3369, found: 345.3364. HPLC: 95% pure.

reactant | lithium aluminum hydride | 17.60 mmol, 0.67 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2,2,16,16-tetramethyl-9-oxoheptadecanedioic acid diethyl ester | 7.04 mmol, 3.0 g | C(C)OC(C(CCCCCCC(CCCCCCC(C(=O)OCC)(C)C)=O)(C)C)=O | C25H46O5
reactant | ethyl acetate | 80 mmol, 8 mL | C(C)(=O)OCC | C4H8O2
reactant | sulfuric acid | 2 N, 28 mL | S(O)(O)(=O)=O | H2O4S
solvent | MTBE | 20 mL | C(C)(C)(C)OC | C5H12O
solvent | MTBE | 40 mL | C(C)(C)(C)OC | C5H12O
solvent | methyl tert-butyl ether | 80 mL | C(C)(C)(C)OC | C5H12O
solvent | water | 15 mL | O | H2O
product | 2,2,16,16-tetramethylheptadecane-1,9,17-triol | 1.59 g, 65% | CC(CO)(CCCCCCC(CCCCCCC(CO)(C)C)O)C | C21H44O3
